US06747047B2
Step A: Preparation of 3-methyl-N-(1-methylethyl)-2-nitrobenzamide
A solution of 3-methyl-2-nitrobenzoic acid (2.00 g, 11.0 mmol) and triethylamine (1.22 g, 12.1 mmol) in 25 mL of methylene chloride was cooled to 10° C. Ethyl chloroformate was carefully added and a solid precipitate formed. After stirring for 30 minutes isopropylamine (0.94 g, 16.0 mmol) was added and a homogeneous solution resulted. The reaction was stirred for an additional hour, poured into water and extracted with ethyl acetate. The organic extracts were washed with water, dried over magnesium sulfate and evaporated under reduced pressure to afford 1.96 g of the desired intermediate as a white solid melting at 126-128° C.

reactant | 3-methyl-2-nitrobenzoic acid | 11.0 mmol, 2.00 g | CC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C8H7NO4
reactant | triethylamine | 12.1 mmol, 1.22 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | isopropylamine | 16.0 mmol, 0.94 g | C(C)(C)N | C3H9N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-methyl-N-(1-methylethyl)-2-nitrobenzamide | 1.96 g | CC=1C(=C(C(=O)NC(C)C)C=CC1)[N+](=O)[O-] | C11H14N2O3
